US05674467
a) 5,10,15,20-Tetrakis-(3-acetylaminophenyl)-porphyrin
16.32 g (0.10 mol) of 3-acetylaminobenzaldehyde (EMS-Dottikon AG) is dissolved in 300 ml of propionic acid and the solution is heated to 60° C. 6.71 g (0.10 mol) of pyrrole is instilled slowly and the dark solution is stirred for one hour at 110° C. After cooling, it is completely concentrated by evaporation in a vacuum, and the residue is recrystallized from pyridine/diethyl ether.

reactant | 3-acetylaminobenzaldehyde | 0.10 mol, 16.32 g | C(C)(=O)NC=1C=C(C=O)C=CC1 | C9H9NO2
reactant | pyrrole | 0.10 mol, 6.71 g | N1C=CC=C1 | C4H5N
solvent | propionic acid | 300 ml | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-Tetrakis-(3-acetylaminophenyl)-porphyrin | C(C)(=O)NC=1C=C(C=CC1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC(=CC=C4)NC(C)=O)N3)C3=CC(=CC=C3)NC(C)=O)=N2)C2=CC(=CC=C2)NC(C)=O | C52H42N8O4
